US08110585B2
4-bromo-2-methyl-2H-indazole
To a solution of 4-bromo-1H-indazole (2.24 g, 11.4 mmol) in ethyl acetate (110 mL) was added trimethyloxonium tetrafluoroborate (2.19 g, 14.8 mmol) at room temperature, and the mixture was stirred for 3 hr. The reaction solution was diluted with ethyl acetate, washed with aqueous sodium hydrogen carbonate solution and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→40/60) to give the title compound (2.29 g, yield 95%).

reactant | 4-bromo-1H-indazole | 11.4 mmol, 2.24 g | BrC1=C2C=NNC2=CC=C1 | C7H5BrN2
reactant | trimethyloxonium tetrafluoroborate | 14.8 mmol, 2.19 g | F[B-](F)(F)F.C[O+](C)C
solvent | ethyl acetate | 110 mL | C(C)(=O)OCC | C4H8O2
product | 4-bromo-2-methyl-2H-indazole | 2.29 g, yield 95% | BrC=1C2=CN(N=C2C=CC1)C | C8H7BrN2
